US09371320B2
B) methyl 4-(4-oxo-1-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate
To a solution of methyl 4-(4-methoxy-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate (146 mg) in acetonitrile (10 mL) were added sodium iodide (117 mg) and chloro(trimethyl)silane (0.396 mL)(and the mixture was stirred at 60° C. for 30 min. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the obtained solid was washed with ethyl acetate/diisopropyl ether to give the title compound (131 mg).

reactant | methyl 4-(4-methoxy-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate | 146 mg | COC1=NC=CC2=C1C(=NN2C2CCOCC2)C=2C=C(SC2)C(=O)OC | C18H19N3O4S
reactant | sodium iodide | 117 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.396 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 4-(4-oxo-1-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate | 131 mg | O=C1NC=CC2=C1C(=NN2C2CCOCC2)C=2C=C(SC2)C(=O)OC | C17H17N3O4S
